US06946489B2
a) Ethyl 2-(3-cyanophenoxy)pentanoate
A solution of 5.0 g (42 mmol) of 3-hydroxybenzonitrile and 8.78 g (42.0 mmol) of ethyl 2-bromovalerate in 80 ml of acetonitrile is treated with 13.7 g (42.0 mmol) of caesium carbonate and stirred at room temperature for 18 hours. The reaction mixture is filtered off and the filtrate evaporated. A colourless oil is obtained; FAB 248

reactant | 3-hydroxybenzonitrile | 42 mmol, 5.0 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | ethyl 2-bromovalerate | 42.0 mmol, 8.78 g | BrC(C(=O)OCC)CCC | C7H13BrO2
reactant | caesium carbonate | 42.0 mmol, 13.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | Ethyl 2-(3-cyanophenoxy)pentanoate | C(#N)C=1C=C(OC(C(=O)OCC)CCC)C=CC1 | C14H17NO3
